US08314091B2
A: 3-((4-(4-Amino-3-methylbenzoyl)piperazin-1-yl)methyl)-N-tert-butylbenzamide
To a stirred solution, of. 4-amino-3-methylbenzoic acid (3.31 mmol, 0.50 g), N-tert-butyl-3-(piperazin-1-ylmethyl)benzamide (3.45 mmol, 0.95 g) and triethylamine (14.35 mmol, 2.00 mL, 1.452 g) in dichloromethane (10 mL) was added 1-propanephosphonic acid cyclic anhydride (6.75 mmol, 4 mL, 4.30 g, 50% in ethyl acetate) dropwise. The mixture was allowed to stir for 1 hour. After this time ethyl acetate was added and the organic mixture was washed with saturated sodium hydrogen carbonate (×2), water (×2) and finally brine. The organic layer was dried with sodium sulfate and concentrated under vacuum to yield the title compound (0.60 g).

reactant | 4-amino-3-methylbenzoic acid | 3.31 mmol, 0.50 g | NC1=C(C=C(C(=O)O)C=C1)C | C8H9NO2
reactant | N-tert-butyl-3-(piperazin-1-ylmethyl)benzamide | 3.45 mmol, 0.95 g | C(C)(C)(C)NC(C1=CC(=CC=C1)CN1CCNCC1)=O | C16H25N3O
reactant | triethylamine | 14.35 mmol, 2.00 mL, 1.452 g | C(C)N(CC)CC | C6H15N
reactant | 1-propanephosphonic acid cyclic anhydride | 6.75 mmol, 4 mL, 4.30 g | CCCP1(=O)OP(=O)(OP(=O)(O1)CCC)CCC | C9H21O6P3
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-((4-(4-Amino-3-methylbenzoyl)piperazin-1-yl)methyl)-N-tert-butylbenzamide | 0.60 g | NC1=C(C=C(C(=O)N2CCN(CC2)CC=2C=C(C(=O)NC(C)(C)C)C=CC2)C=C1)C | C24H32N4O2
